US04312870
The starting material is prepared as follows: 20.0 g of diethyl malonate are added to 5.8 g of sodium metal dissolved in 100 ml of absolute ethanol. After stirring for 15 minutes, 17.8 g of p-chlorophenylhydrazine are added, and the resulting mixture is stripped to remove excess ethanol. The residue is heated at 110° to 120° for 4.5 hours, then quenched with 500 ml of ice-water. The resulting mixture is washed twice with diethyl ether and the aqueous layer is acidified with conc. hydrochloric acid to a pH below 2. The resulting solid is recrystallized from toluene, to give the 1-(p-chlorophenyl)-pyrazolidin-3,5-dione melting at 189°-193°.

reactant | diethyl malonate | 20.0 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium | 5.8 g | [Na] | Na
reactant | p-chlorophenylhydrazine | 17.8 g | ClC1=CC=C(C=C1)NN | C6H7ClN2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-(p-chlorophenyl)-pyrazolidin-3,5-dione | ClC1=CC=C(C=C1)N1NC(CC1=O)=O | C9H7ClN2O2
